US04476311
(E) 1-Benzyl-2-(2,6-dichlorophenyl) pyrrolidin-3-acetic acid
To 90 ml of water containing 10 g of sodium hydroxide was added 5.0 g of 1-benzyl-3-cyanomethyl-2-(2,6-dichlorophenyl)-pyrrolidin-5-one. The reaction was refluxed 5 hours, cooled, and filtered. Extraction of the aqueous phase with ether followed by addition of ice and acidification with concentrated hydrochloric acid gave a solid which was then triturated with ether to yield beige crystals. Vacuum drying (0.1 Torr) under refluxing toluene for 15 hours followed by recrystallization from ethanol provided upon drying 1.50 g of colorless crystals, m.p. 186°-188°.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-benzyl-3-cyanomethyl-2-(2,6-dichlorophenyl)-pyrrolidin-5-one | 5.0 g | C(C1=CC=CC=C1)N1C(C(CC1=O)CC#N)C1=C(C=CC=C1Cl)Cl | C19H16Cl2N2O
reactant | water | 90 ml, 10 g | O | H2O
product | 1-Benzyl-2-(2,6-dichlorophenyl) pyrrolidin-3-acetic acid | C(C1=CC=CC=C1)N1C(C(CC1)CC(=O)O)C1=C(C=CC=C1Cl)Cl | C19H19Cl2NO2
